US04022778
1,2,3,4-Tetrahydro-2-(3-dimethylaminopropyl)-8-chloro-10-phenylpyrazino[1,2-a]indole-1-one
To a stirred solution of ethyl 3-phenyl-5-chloro-1-(2-aminoethyl)indole-2-carboxylate (6 grams, 0.019 mole) in 50 ml dimethyl formamide is added potassium carbonate, powdered, 3.4 grams (0.025 mole), followed by 2.45 grams (0.02 mole) distilled dimethylaminopropyl chloride. The solution is stirred 56 hours at room temperature, then heated at 100°-120° C. for 4 hours. After cooling, the suspension is poured into 200 ml ice-water and extracted with dichloromethane. The extract is washed with saline, then dried over sodium sulfate, filtered and concentrated. The residue, which contains considerable dimethyl formamide, is poured into water (300 ml). A solid is formed and is separated by decantation. The residue is crystallized from acetone.

reactant | ethyl 3-phenyl-5-chloro-1-(2-aminoethyl)indole-2-carboxylate | 0.019 mole, 6 grams | C1(=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)Cl)CCN)C(=O)OCC | C19H19ClN2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-Tetrahydro-2-(3-dimethylaminopropyl)-8-chloro-10-phenylpyrazino[1,2-a]indole-1-one | CN(CCCN1C(C=2N(C=3C=CC(=CC3C2C2=CC=CC=C2)Cl)CC1)=O)C | C22H24ClN3O
